US07781610B2
Synthesis of Dibutylphenyltin Iodide
In a three-necked flask protected from light, dibutyl diphenyltin (10 g, 25.9 mmol) was solubilized in 50 mL of dry methanol. A solution of iodine (6.04 g, 23.76 mmol) in methanol was then added slowly. After stirring at room temperature for 16 hours, methanol was eliminated under vacuum. The residue was dissolved in petroleum ether and washed with a saturated aqueous solution of sodium thiosulphate. Organic layers were washed with a saturated sodium chloride solution and dried over MgSO4. Solvent was evaporated and the crude product was distilled using a Kugelrohr apparatus (rotating glass oven for fractionating distillation of small sample volumes at 60° C. A colourless oil was obtained (10.5 g, 24.0 mmol).

reactant | dibutyl diphenyltin | 25.9 mmol, 10 g | C(CCC)[Sn](C1=CC=CC=C1)(C1=CC=CC=C1)CCCC
reactant | iodine | 23.76 mmol, 6.04 g | II | I2
solvent | methanol | 50 mL | CO | CH4O
product | Dibutylphenyltin Iodide | C(CCC)[Sn](C1=CC=CC=C1)(CCCC)I | InChI=1S/C6H5.2C4H9.HI.Sn/c1-2-4-6-5-3-1;2*1-3-4-2;;/h1-5H;2*1,3-4H2,2H3;1H;/q;;;;+1/p-1
